US07528173B2
To a solution of 2-(3-(N′,N″-di(t-butoxycarbonyl)guanidino)phenyl)-2-((1-(2-phenylethenylsulfonyl)amino-2-methylpropyl)(hydroxy)-phosphinoyloxy)ethanoic acid, methyl ester (220 mg) in 5 mL methylene chloride was added 1 mL TFA. The reaction mixture was stirred at ambient temperature for 4 hours, then concentrated in vacuo to get an oil. The oil was dissolved in 2.5 mL MeOH, then a solution of LiOH (100 mg) in 3 mL water was added. The reaction mixture was stirred at ambient temperature for 2 hours. The crude product was purified by HPLC directly without work up to afford 2-(3-guanidinophenyl)-2-((1-(2-phenyl-ethenylsulfonyl)amino-2-methylpropyl)-(hydroxy)phosphinoyloxy)ethanoic acid, as a white solid (55 mg) NMR (DMSO-d6) 0.88 (m,6), 2.10 (m,1), 3.40 (m,1), 5.63 (m, 1), 7.10-7.60 (m, 11), 9.80 (d, 1) ppm.

reactant | 2-(3-(N′,N″-di(t-butoxycarbonyl)guanidino)phenyl)-2-((1-(2-phenylethenylsulfonyl)amino-2-methylpropyl)(hydroxy)-phosphinoyloxy)ethanoic acid, methyl ester | 220 mg | C(C)(C)(C)OC(=O)N=C(NC=1C=C(C=CC1)C(C(=O)OC)OP(=O)(O)C(C(C)C)NS(=O)(=O)C=CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C32H45N4O11PS
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | LiOH | 100 mg | [Li+].[OH-]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2.5 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 2-(3-guanidinophenyl)-2-((1-(2-phenyl-ethenylsulfonyl)amino-2-methylpropyl)-(hydroxy)phosphinoyloxy)ethanoic acid | N(C(=N)N)C=1C=C(C=CC1)C(C(=O)O)OP(=O)(O)C(C(C)C)NS(=O)(=O)C=CC1=CC=CC=C1 | C21H27N4O7PS
